US07528158B2
5-Nitro-1,2-dihydro-indazol-3-one (prepared according to Org. Synth. 1949, 29, 54 or Chem Ber. 1942, 75, 1104) (0.6 g) was suspended in water (8 mL) and 2N K2CO3 (aq.) (1.8 g) was added to the flask and the mixture was heated to 50° C. for 10 minutes. Acrylonitrile (0.24 mL) was then added dropwise. The reaction was stirred overnight and was quenched with 2 N HCl (aq.) solution while cooling in an ice bath. The aqueous phase was extracted with EtOAc and the combined phases were washed with brine, dried over sodium sulfate, filtered and reduced in vacuo. Flash column chromatography over silica gel (eluting with EtOAc, nheptane, 3% AcOH) afforded pure desired 3-(5-Nitro-3-oxo-2,3-dihydro-indazol-1-yl)-propionitrile as a white solid. MS (ESI+: 233.3[M+H]+).

reactant | 5-Nitro-1,2-dihydro-indazol-3-one | 0.6 g | [N+](=O)([O-])C=1C=C2C(NNC2=CC1)=O | C7H5N3O3
reactant | K2CO3 | 2N, 1.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Acrylonitrile | 0.24 mL | C(C=C)#N | C3H3N
solvent | water | 8 mL | O | H2O
product | 3-(5-Nitro-3-oxo-2,3-dihydro-indazol-1-yl)-propionitrile | [N+](=O)([O-])C=1C=C2C(NN(C2=CC1)CCC#N)=O | C10H8N4O3
